US07585868B2
Synthesis of 5-iodo-7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (ZK140).
4-chloro-5-iodo-7-methyl-7H-pyrrolo[2,3-d]pyrimidine (90 mg, 0.31 mmol) was taken up in 7N NH3/MeOH and heated in a sealed tube at 110° C. overnight. Reaction was concentrated in vacuo to give a brown/off-white solid.

reactant | 4-chloro-5-iodo-7-methyl-7H-pyrrolo[2,3-d]pyrimidine | 0.31 mmol, 90 mg | ClC=1C2=C(N=CN1)N(C=C2I)C | C7H5ClIN3
reactant | NH3 MeOH | 7N | N.CO
product | 5-iodo-7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | IC1=CN(C=2N=CN=C(C21)N)C | C7H7IN4
